US07902369B2
1) Manufacture of 3-benzyl-4-oxo-6-(2-trimethylsilylethynyl)-3,4-dihydroquinazoline
Under nitrogen atmosphere, 947 mg of trimethylsilylacetylene, 54.7 mg of copper iodide (I), 54.2 mg bis(triphenylphosphine) palladium dichloride (II) and 3 ml of triethylamine were added sequentially to 1.5 ml solution of dimethylformamide with 501 mg of 3-benzyl-6-bromo4-oxo-3,4-dihydroquinazoline, and the mixture was stirred at 100° C. for 14 hours. After distilling out the solvents under reduced pressure, water was added to the reaction solution, and extracted with ether. Ether layer was washed with saturated saline solution, and dried with anhydrous sodium sulfate. The solvents were distilled outunder reduced pressure, and the residues were separated and purified by silicagel column chromatography (ethyl acetate/hexane=3/7) to obtain 570 mg of the above compound as a colorless oily matter.

reactant | trimethylsilylacetylene | 947 mg | C[Si](C)(C)C#C | C5H10Si
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
reactant | 3-benzyl-6-bromo4-oxo-3,4-dihydroquinazoline | 501 mg | C(C1=CC=CC=C1)N1C=NC2=CC=C(C=C2C1=O)Br | C15H11BrN2O
catalyst | copper iodide | 54.7 mg | [Cu](I)I
catalyst | bis(triphenylphosphine) palladium dichloride | 54.2 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-benzyl-4-oxo-6-(2-trimethylsilylethynyl)-3,4-dihydroquinazoline | 570 mg | C(C1=CC=CC=C1)N1C=NC2=CC=C(C=C2C1=O)C#C[Si](C)(C)C | C20H20N2OSi
